US07351724B2
9-Phenyl-1-[5-(pyridin-2-yl)-1,3,4-oxadiazol-2-yl]-nonan-1-one
Starting with methyl 5-(pyridin-2-yl)-[1,3,4]-oxadiazole-2-carboxylate and 8-bromooctylbenzene, the title compound (28 mg, 43%) was obtained as a white solid using a procedure similar to Example 1. 1H NMR (400 MHz, CDCl3) 1.34 (m, 8H), 1.62 (quintet, J=7.3 Hz, 2H), 1.81 (quintet, J=7.3 Hz, 2H), 2.61 (dd, J=7.9, 7.6 Hz, 2H), 3.21 (t, J=7.5 Hz, 2H), 7.16-7.19 (m, 3H), 7.26-7.30 (m, 2H), 7.54 (dd, J=7.6, 4.7, Hz, 1H), 7.93 (td, J=7.6, 1.5 Hz, 1H), 8.30 (d, J=7.9 Hz, 1H), 8.85 (d, J=4.7 Hz, 1H); 13C NMR (CDCl3, 100 MHz) 23.6, 28.9, 29.00, 29.02, 29.2, 31.4, 35.90, 35.92, 40.1, 124.0, 125.5, 126.7, 128.2, 128.4, 137.3, 142.6, 142.8, 150.8, 161.2, 165.0, 187.2; MALDI-FTMS m/z 364.2024 (C22H25N3O2+H+ requires 364.2019).

reactant | methyl 5-(pyridin-2-yl)-[1,3,4]-oxadiazole-2-carboxylate | N1=C(C=CC=C1)C1=NN=C(O1)C(=O)OC | C9H7N3O3
reactant | 8-bromooctylbenzene | BrCCCCCCCCC1=CC=CC=C1 | C14H21Br
product | 9-Phenyl-1-[5-(pyridin-2-yl)-1,3,4-oxadiazol-2-yl]-nonan-1-one | 28 mg, 43% | C1(=CC=CC=C1)CCCCCCCCC(=O)C=1OC(=NN1)C1=NC=CC=C1 | C22H25N3O2
